US05849888
28.2 Grams of n-hexylamine is mixed with 50 g of 2,2'-azobis (2-methyl propionate), and 20 g of 28% sodium methoxide solution in methanol and 10 ml of methanol are added thereto with stirring followed by conducting a reaction at room temperature with stirring for 6 hours and keeping standing overnight. 100 Milliliter of water is added to the reaction solution and extraction with 100 ml of n-hexane is conducted. The hexane layer is washed with water and dried over anhydrous sodium sulfate. The solvent is removed by distillation to give 76.3 g (yield 95%) of 2,2'-azobis (N-hexyl-2-methyl propionamide) as pale yellow sintering crystal. The solubility is shown in Table 1.

reactant | n-hexylamine | C(CCCCC)N | C6H15N
reactant | 2,2'-azobis (2-methyl propionate) | 50 g | N(=NC(C(=O)[O-])(C)C)C(C(=O)[O-])(C)C
reactant | sodium methoxide | 20 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | 2,2'-azobis (N-hexyl-2-methyl propionamide) | 76.3 g, yield 95% | N(=NC(C(=O)NCCCCCC)(C)C)C(C(=O)NCCCCCC)(C)C | C20H40N4O2
